US07452892B2
A. Preparation of 8-amino-7-chloro-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a solution of 5-amino-4,6-dichloropyrimidine (1.64 g, 10 mmol) in THF (10 mL) at room temperature under argon was added H2NNH2 (0.96 g mg, 30 mmol). The resulting reaction mixture was stirred at room temperature under argon for 50 h. HPLC analysis indicated disappearance of the starting material. Water (100 mL) was added to the reaction mixture. The solid precipitate was collected by filtration and was washed with water (10 mL×3). The resulting solid was dissolved in a mixture of 20 mL of 1 M aqueous HCl and 10 mL of 1,4-dioxane. Triphosgene (7.6 g, 25.7 mmol) was then added. After the reaction mixture had stirred at room temperature under argon for 3 h, analysis by HPLC/MS indicated that the reaction was complete. Water (50 mL) was added to the reaction mixture. The solid precipitate was collected by filtration and was washed with water (5 mL×3). After the resulting solid was dried under vacuum, the title compound (1.41 g) was obtained as a tan solid. HPLC/MS: retention time=0.93 min, [M+H]30 =186. See also C. Temple, Jr., et al., J. Org. Chem., volume 33, pp. 530-533, 1968.

reactant | 5-amino-4,6-dichloropyrimidine | 10 mmol, 1.64 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | H2NNH2 | 30 mmol, 0.96 g | NN | H4N2
reactant | Water | 100 mL | O | H2O
reactant | Triphosgene | 25.7 mmol, 7.6 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Water | 50 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-amino-7-chloro-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 1.41 g | NC=1C=2N(C=NC1Cl)C(NN2)=O | C5H4ClN5O
